US03947456
The free base isolated from 1.80 g. of rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methylisoquinoline hydrochloride is stirred for 3 hours with 30 ml. of 48% hydrogen bromide solution at 150° (bath temperature). After concentration and recrystallization from methanol-ether, there is obtained rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-6,7-isoquinolinediol hydrobromide, m.p. 280°-281°.

reactant | rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methylisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1CN(CC2=CC(=C(C=C12)OC)OC)C
reactant | hydrogen bromide | Br | BrH
product | rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-6,7-isoquinolinediol hydrobromide | Br.ClC1=CC=C(C=C1)C1CN(CC2=CC(=C(C=C12)O)O)C | InChI=1S/C16H16ClNO2.BrH/c1-18-8-11-6-15(19)16(20)7-13(11)14(9-18)10-2-4-12(17)5-3-10;/h2-7,14,19-20H,8-9H2,1H3;1H
